US07524845B2
To a suspension of 3-acetylamino-4-methylpyridine (301.5 mg, 2.0 mmol, 1 equiv) in toluene (3 mL) was added tert-butyl nitrite (t-BuONO) (420 μL, 3.2 mmol, 1.6 equiv), acetic anhydride (560 μL, 6.0 mmol, 3 equiv) and potassium acetate (235.2 mg, 2.4 mmol, 1.2 equiv). The resultant mixture was heated at 80° C. for 2 hours, cooled to room temperature, and diluted with ethyl acetate (200 mL). The mixture was washed with saturated sodium bicarbonate solution (50 mL), water (50 mL) and brine (50 mL). The organic layer was dried over sodium sulfate and concentrated in vacuo to provide a crude residue. The residue was purified by flash chromatography (silica, 15% ethyl acetate/hexane to 50% ethyl acetate/hexane) to give 1-pyrazolo[3,4-c]pyridin-1-yl-ethanone (20.2 mg) which was used without further purification.

reactant | 3-acetylamino-4-methylpyridine | 2.0 mmol, 301.5 mg, 1 equiv | C(C)(=O)NC=1C=NC=CC1C | C8H10N2O
reactant | tert-butyl nitrite | 3.2 mmol, 420 μL, 1.6 equiv | N(=O)OC(C)(C)C | C4H9NO2
reactant | acetic anhydride | 6.0 mmol, 560 μL, 3 equiv | C(C)(=O)OC(C)=O | C4H6O3
reactant | potassium acetate | 2.4 mmol, 235.2 mg, 1.2 equiv | C(C)(=O)[O-].[K+]
solvent | toluene | 3 mL | C1(=CC=CC=C1)C | C7H8
solvent | ethyl acetate | 200 mL | C(C)(=O)OCC | C4H8O2
product | 1-pyrazolo[3,4-c]pyridin-1-yl-ethanone | 20.2 mg | N1(N=CC=2C1=CN=CC2)C(C)=O | C8H7N3O
